Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Depression and suicidal ideation." 
 
Major Surgical or Invasive Procedure:
ECT, s/p one treatment 

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including initial consultation note by Dr. ___ 
dated ___ and initial consultation note by Dr. ___ 
___ dated ___.
. 
Briefly, this is a ___ year old married woman with history of 
MDD, no prior psychiatric hospitalizations or suicide attempts, 
unremarkable past medical history, who self presented to ___ 
ED with 3 weeks of worsening depression, SI with thoughts of 
shooting herself or overdosing on medications. 
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
Upon admission interview, Ms. ___, who was a 
cooperative and a reliable historian, confirmed the initial 
history provided in the ED. Reported a longstanding history of 
depression beginning during her freshman year in college when 
she was having difficulty adjusting to a rigorous schedule. 
Stated her mother, who is a ___, recognized the signs and 
she started seeing a psychiatrist. Reported years of 
intermittent depression lasting anywhere from days to 1 week 
with about ___ episodes per year and tend to be triggered by 
conflict with her parents, who are ___. 
. 
Patient reports that over the past 6 months her wife has been 
noting increasing irritability. About 3 weeks ago, patient 
reported worsening depression without an identifiable trigger. 
Described depression as "having a weight on my shoulders" with 
difficulty falling asleep (taking about ___ hours per night),
sleeping about 9 hours per night but does not feel rested in the 
morning. Reported decreased interest but states she still enjoys 
going on runs, which she does about 5 days a week, ___ miles per 
run. Reported feeling guilty for being in the hospital and 
"crappy because I can't get over this." Stated energy was poor 
as was her concentration. Slight decrease in appetite. Reported 
SI with thoughts of wanting to shoot herself, although she does 
not have access to a gun vs. overdosing on her medications 
because they are readily available. Denies rehearsals on my 
exam. 
. 
On medical review of systems, denies headaches, visual changes, 
chest pain, palpitations, shortness of breath, n/v/d. 
. 
With the patient's permission, I talked with her outpatient 
psychiatrist, Dr. ___. Dr. ___ reported patient 
has no documented history of mania but was suspicious of ?BPAD 
II disorder, as she has history of irritability/agitation while 
on antidepressants. Discussed medication regimen and Dr. 
___ was in agreement with holding nortriptyline (which 
seemed to
cause activating symptoms as dose was titrated up) and 
Trintellix. Was in agreement with continuing lithium, increasing 
Lamictal (which was just started), and considering a trial of 
Latuda. 
. 

 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: MDD, SAD 
- SA/SIB: denies/denies 
- Hospitalizations: denies 
- Psychiatrist: Dr. ___: ___: patient has
been seeing about ___ months 
- Therapist: ___: ___: patient has been seeing
for approximately ___ year  
- Medication Trials: nortriptyline, trintellix, Lamictal,
lithium, Ambient, zoloft (helped in the beginning), Seroquel,
Vraylar, Abilify, Cymbalta, Effexor, Lexapro, Prozac (" it was
ugly-- I was a bitch"). Also trialed on Wellbutrin, Saphris
(sedation).  
. 
Past Medical History: 
- lithium induced hypothyroidism 
- PCP: Dr. ___: at ___ 

 
Social History:
Substance History:  
- Alcohol: denies
- Illicits: occasional cannabis use
- Tobacco: denies 
.
Social History: Per patient: Born and raised in ___ as a 
fraternal twin as one of four daughters. Has older sister and 
younger sister in addition to her twin sister. Patient stated 
she grew up in an ___/conservative household. Mother is 
a retired ___, whom she described as "cold" and her 
father is a urologist, whom she described as "warmer... he's the 
emotional one." Stated she knew she was gay when she was young 
"I knew it wasn't acceptable and so I would pray." Stated she 
did have friends growing up and did "reasonable" in school. Was 
a ___ player and attended ___ 
because they were the best field hockey team in the ___. 
Stated the transition was difficult, as the athletics were 
demanding. Despite this, she was an honors students and 
graduated with a degree in psychology. Stated she then stayed on 
at ___ and obtained a ___ in sports management. In 
that program she met her wife, ___. She went on to obtain an 
MBA and ___ in divinity. Married for ___ years, her 
anniversary is in one week. Described her wife as "supportive," 
wife works in ___ affairs in ___. Currently she works 
as a ___ at ___ in ___ and 
___ time as a ___ in ___. Reported she was distant 
from her family and has been since she "came out" in ___. 
Stated her parents will not allow her or her wife in their house 
and that when they come to visit her sister, who is a physician 
at ___, they will not visit her or her wife. ___ history of 
physical or sexual abuse and denies access to firearms. No 
children. Denies history of legal issues. 

 

 
Family History:
Family History: 
- Reports sisters with depression, denies hospitalizations or 
suicide attempts. Outpatient psychiatrist reports ?history of 
bipolar disorder in twin sister and another sister with post 
partum depression. 

 
Pertinent Results:
___ 07:05PM URINE  HOURS-RANDOM
___ 07:05PM URINE  UCG-NEGATIVE
___ 07:05PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:05PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-TR*
___ 07:05PM URINE  RBC-1 WBC-4 BACTERIA-FEW* YEAST-NONE 
EPI-1
___ 06:58PM   GLUCOSE-100 UREA N-11 CREAT-1.2* SODIUM-140 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-23 ANION GAP-15
___ 06:58PM   estGFR-Using this
___ 06:58PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 06:58PM   WBC-9.7 RBC-4.90 HGB-14.7 HCT-42.9 MCV-88 
MCH-30.0 MCHC-34.3 RDW-11.8 RDWSD-37.9
___ 06:58PM   NEUTS-81.8* LYMPHS-13.4* MONOS-3.9* EOS-0.3* 
BASOS-0.4 IM ___ AbsNeut-7.95* AbsLymp-1.30 AbsMono-0.38 
AbsEos-0.03* AbsBaso-0.04
___ 06:58PM   PLT COUNT-281
 
Brief Hospital Course:
This is a ___ year old married woman with history of MDD, no 
prior psychiatric hospitalizations or suicide attempts, 
unremarkable past medical history, who self presented to ___ 
ED with 3 weeks of worsening depression, SI with thoughts of 
shooting herself or overdosing on medications. 
. 
Interview with patient notable for difficult childhood as noted 
above with depressive symptoms beginning at age ___ with days 
weeks of low mood, suicidal ideation, neurovegetative symptoms, 
which, per the patient, are usually triggered by interactions 
with her parents, with whom she has a difficult relationship 
with. Patient reports current episode began about 3 weeks with 
severe depressive symptoms as noted above. Mental status 
examination notable for depressed mood, dysthymic affect, 
thought process that is notably linear, goal oriented. 
. 
Diagnostically, etiology of presentation is unclear. She meets 
DSM criteria for MDD without psychotic features, but has a 
history of worsening mood/irritability with antidepressant 
treatment. No clear history of mania, but given lack of response 
of antidepressants in the past, bipolar is certainly on the 
differential at this time. In addition, given her difficult 
childhood with lack of supports, I cannot rule out underlying 
character pathology that may be contributing to her current 
presentation. Nothing in her history to suggest history of 
psychosis and she is certainly not psychotic on my examination. 
Medical history is unremarkable aside from lithium induced 
hypothyroidism and no history of significant drug or alcohol 
use.
. 
#. Legal/Safety: Patient admitted to ___ on a ___, upon admission, she signed a CV, which was accepted. 
However, later in the day she stated she no longer wanted to be 
on an inpatient unit and signed a 3 day notice that expired on 
___. Prior to the expiration of her 3 day notice, we 
were able to make a reasonable discharge and safety plan and Ms. 
___ was discharged home with outpatient follow up 
appointments. 
. 
#. Depression: as noted above
- Patient maintained good behavioral control in the milieu, 
although stated she did not find the environment useful and 
asked to be discharged as soon as possible. 
- With the patient's permission, I talked with her outpatient 
psychiatrist, who agreed with plan of holding Trintillex and 
nortriptyline with initiation of ECT.  We continued lithium at 
her home dose to 900 mg p.o. nightly, which she tolerated well 
with no complaints of side effects. Lithium level on admission 
was 0.6, with repeat level at 1.2, this was likely not a trough. 
Ambien was continued at 10 mg p.o. nightly for insomnia.
- After discussion of the risks and benefits, and upon clearance 
from medicine and anesthesia, ECT was started on ___ 
tolerated this procedure well without complications. 
- Discussed with outpatient psychiatrist the pros and cons of 
keeping the patient against her will until expiration of her 3 
day notice, and given the patient's strong desire to leave, her 
outpatient psychiatrist agreed that it would be reasonable to 
discharge Ms. ___ home on ___ following her first 
ECT treatment. Collateral was also obtained from her outpatient 
therapist, who noted chronic depression and suicidal ideation; 
therapist also felt comfortable with continuing to see her upon 
discharge. 
- On day prior to discharge, a family meeting was held with the 
patient's wife, who stated she felt comfortable having Ms. 
___ return home and follow up with outpatient treaters 
and referral for outpatient ECT. 
.
#. Hypothyroidism: per patient, lithium induced
- TSH was 1.6 on admission
- Continued liothyronine 25 mcg po daily 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Zolpidem Tartrate 10 mg PO QHS 
2. LamoTRIgine 25 mg PO DAILY 
3. Nortriptyline 10 mg PO DAILY 
4. Trintellix (vortioxetine) 5 mg oral daily 
5. Lithium Carbonate SR (Lithobid) 900 mg PO QHS 
6. Liothyronine Sodium 25 mcg PO DAILY 

 
Discharge Medications:
1.  LamoTRIgine 25 mg PO DAILY  
2.  Liothyronine Sodium 25 mcg PO DAILY  
3.  Lithium Carbonate SR (Lithobid) 900 mg PO QHS  
4.  Zolpidem Tartrate 10 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major disorder, recurrent, severe, without psychotic features
R/O bipolar disorder 

 
Discharge Condition:
VS: 97.9 PO   118/75   61   16   99% RA 
A/B: Appears stated age, dressed casually with good hygiene and
grooming, irritable and somewhat hostile with interviewer, good
eye contact, no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'I'm fine' 
A: irritable, incongruent with reported mood 
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert, responds to questions appropriately 
I/J: fair/fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
- Please take lithium at noon on the nights prior to ECT 
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___